US04028356
In the manner given in Example 1, 7-(trifluoromethyl)-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 1-bromo-3-hydroxypropanone under nitrogen to give 7-(trifluoromethyl)-2-[[2-bromo-1-(hydroxymethyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-(trifluoromethyl)-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | FC(C=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1)(F)F | C16H13F3N4
reactant | 1-bromo-3-hydroxypropanone | BrCC(CO)=O | C3H5BrO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-(trifluoromethyl)-2-[[2-bromo-1-(hydroxymethyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | FC(C=1C=CC2=C(C(=NCC(=N2)NN=C(CBr)CO)C2=CC=CC=C2)C1)(F)F | C19H16BrF3N4O
